US08648066B2
A solution of 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-[2-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazo[4,5-b]pyridin-6-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine (0.54 g, 0.95 mmol) in a mixture of methanol (30 mL) and concentrated hydrochloric acid (1 mL) was stirred at reflux for 16 hours. On cooling to room temperature the solution was concentrated and the pH was adjusted to ˜9 by the addition of 50% aqueous sodium hydroxide and diluted with ethyl acetate (100 mL). The organic layer was washed with 2M aqueous sodium hydroxide (20 mL) and brine, dried over anhydrous sodium sulfate, filtered and concentrated. The precipitating white solid was collected by filtration and washed with hexane to provide 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine (0.28 g, 67%). 1H NMR (400 MHz, d6-DMSO): 8.53 (d, 1H), 8.38 (s, 1H), 8.03 (d, 1H), 7.70 (d, 1H), 7.54 (dd, 1H), 7.05 (d, 1H), 4.63 (s, 2H), 4.33 (m, 2H), 3.85 (m, 2H), 2.72 (m, 2H), 2.58 (s, 3H), 2.47 (s, 2H), 1.60 (m, 2H), 0.86 (s, 6H); MS (EI) for C26H28N6O: 441 (MH+).

reactant | 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-[2-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazo[4,5-b]pyridin-6-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine | 0.95 mmol, 0.54 g | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1COCC[Si](C)(C)C)C)C | C32H42N6O2Si
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 0.28 g, 67% | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)C)C | C26H28N6O
